US07211572B2
To a solution of 3-benzyloxy-5-(2,2-dimethylpropionyl)-4-oxo-4H-pyran-2-carboxylic acid 3-chlorobenzylamide (113 mg) in tetrahydrofuran (0.7 ml)-ethanol (0.7 ml) was added 2-aminoethanol (0.015 ml) and the mixture was stirred at 60° C. for 11 hr. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=3:1) to give 3-benzyloxy-5-(2,2-dimethylpropionyl)-1-(2-hydroxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide (91 mg).

reactant | 3-benzyloxy-5-(2,2-dimethylpropionyl)-4-oxo-4H-pyran-2-carboxylic acid 3-chlorobenzylamide | 113 mg | ClC=1C=C(CNC(=O)C=2OC=C(C(C2OCC2=CC=CC=C2)=O)C(C(C)(C)C)=O)C=CC1 | C25H24ClNO5
reactant | ethanol | 0.7 ml | C(C)O | C2H6O
reactant | 2-aminoethanol | 0.015 ml | NCCO | C2H7NO
solvent | tetrahydrofuran | 0.7 ml | O1CCCC1 | C4H8O
product | 3-benzyloxy-5-(2,2-dimethylpropionyl)-1-(2-hydroxyethyl)-4-oxo-1,4-dihydropyridine-2-carboxylic acid 3-chlorobenzylamide | 91 mg | ClC=1C=C(CNC(=O)C=2N(C=C(C(C2OCC2=CC=CC=C2)=O)C(C(C)(C)C)=O)CCO)C=CC1 | C27H29ClN2O5
